US04977165
4.76 g (35.3 mmol) of 1-hydroxybenzotriazole and 7.27 g (35.3 mmol) of dicyclohexylcarbodiimide were added to a solution of 7.02 g (29.4 mmol) of 4-(4-methylsulfonylaminophenyl)-4-oxobutyric acid in 60 ml of dimethylformamide at 0° C. and the mixture was stirred at that temperature for 1 h. 4.80 g (35.3 mmol) of 2-(6-methyl-2-pyridyl)ethylamine obtained in the above step (2) was added thereto. The mixture was stirred at room temperature for 12 h and then filtered The filtrate was concentrated. The solid residue thus obtained was washed with a solvent mixture of chloroform/acetic acid/ethanol to give 9.39 g (yield: 89%) of the intended compound in the form of white crystals.

reactant | 1-hydroxybenzotriazole | 35.3 mmol, 4.76 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 35.3 mmol, 7.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(4-methylsulfonylaminophenyl)-4-oxobutyric acid | 29.4 mmol, 7.02 g | CS(=O)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H13NO5S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(6-methyl-2-pyridyl)ethylamine | 35.3 mmol, 4.80 g | CC1=CC=CC(=N1)CCN | C8H12N2
